US06329405B1
(126a) N-[(R)-1-(3-Fluorophenyl)ethyl]-N-[(3-nitrophenyl)phenylmethyl]amine
Following a procedure similar to that described in Example (1a), 1.0 g of 3-nitrophenyl phenyl ketone, 1.12 g of (R)-1-(3-fluorophenyl)ethylamine, 3.27 ml of triethylamine, 0.56 ml of titanium tetrachloride, 1.13 g of sodium cyanoborohydride and 0.37 ml of acetic acid were reacted, to obtain 1.45 g of the title compound as a yellow oil.

reactant | 3-nitrophenyl phenyl ketone | 1.0 g | C1(=CC=CC=C1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H9NO3
reactant | (R)-1-(3-fluorophenyl)ethylamine | 1.12 g | FC=1C=C(C=CC1)[C@@H](C)N | C8H10FN
reactant | triethylamine | 3.27 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 1.13 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.56 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.37 ml | C(C)(=O)O | C2H4O2
product | N-[(R)-1-(3-Fluorophenyl)ethyl]-N-[(3-nitrophenyl)phenylmethyl]amine | 1.45 g | FC=1C=C(C=CC1)[C@@H](C)NC(C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C21H19FN2O2
